US05872137
A mixture of 0.37 g of 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(3-(4-(trifluoromethyl) phenylamino)propyloxy)benzene, 0.1 ml of methyl iodide, 0.12 g of potassium carbonate and 10 ml of N,N-dimethylformamide was stirred at 50° C. for 3 hours. After cooling to room temperature, the reaction mixture was poured into ice-water, and extracted twice with 50 ml of ethyl acetate. The combined ethyl acetate layer was washed with water, dried with anhydrous magnesium sulfate, and concentrated to obtain a crude product. The crude product was subjected to silica gel chromatography, which afforded 0.26 g of 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(3-(methyl(4-(trifluoromethyl)phenyl)amino)propyloxy)benzene (68% yield), nD25.5 1.5593.

reactant | 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(3-(4-(trifluoromethyl) phenylamino)propyloxy)benzene | 0.37 g | ClC=1C=C(C=C(C1OCCCNC1=CC=C(C=C1)C(F)(F)F)Cl)OCC=C(Cl)Cl | C19H16Cl4F3NO2
reactant | methyl iodide | 0.1 ml | CI | CH3I
reactant | potassium carbonate | 0.12 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(3-(methyl(4-(trifluoromethyl)phenyl)amino)propyloxy)benzene | 0.26 g, 68% yield | ClC=1C=C(C=C(C1OCCCN(C1=CC=C(C=C1)C(F)(F)F)C)Cl)OCC=C(Cl)Cl | C20H18Cl4F3NO2
